US07435837B2
(±)-{[7-fluoro-5-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.068 g, 47%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-fluoro-5-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.199 g, 0.46 mmol) and methylamine (0.28 g, 9.2 mmol). mp 217-222° C. (dec).

reactant | (±)-[7-fluoro-5-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.46 mmol, 0.199 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2F)C2=C(C=CC=C2)Cl | C22H18ClFO4S
reactant | methylamine | 9.2 mmol, 0.28 g | CN | CH5N
product | (±)-{[7-fluoro-5-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=CC(=CC=2CC(OC21)CNC)C2=C(C=CC=C2)Cl | C16H15ClFNO
